US06384048B1
5. (7R,8R,9R)-2,3dimethyl-8-hydroxy-7-(ethylthio)-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine
1.9 g of concentrated sulphuric acid are added slowly at room temperature with stirring to 3 g of (7R,8R,9R)-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetra-hydroimidazo[1,2-h][1,7]naphthyridine, dissolved in a mixture of 40 ml of dry dioxan and 4 ml of ethylsulfide: The temperature is brought to 50° C. by external heating and is then kept for 15 min. After cooling to room temperature, the mixture is poured into 300 g of a mixture of crushed ice and water. The pH is adjusted to neutral by adding aqueous 2N sodium hydroxide solution. The mixture is extracted three times (50 ml each) with ethyl acetate, the organic layers are collectively washed with water and dried over potassium carbonate. The solvent is stripped off under reduced pressure and the solid residue that remains is purified by chromatography on silica gel (mobile phase: diethyl ether). 700 mg of the title compound of m.p. 220-223° C. are obtained after crystallisation from 2-propanol.

reactant | sulphuric acid | 1.9 g | S(O)(O)(=O)=O | H2O4S
reactant | (7R,8R,9R)-7,8-dihydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetra-hydroimidazo[1,2-h][1,7]naphthyridine | 3 g | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=CC12)C(=C(N3)C)C)C3=CC=CC=C3)O | C18H19N3O2
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | dioxan | 40 ml | O1CCOCC1 | C4H8O2
solvent | ethylsulfide | 4 ml | C(C)SCC | C4H10S
product | (7R,8R,9R)-2,3dimethyl-8-hydroxy-7-(ethylthio)-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | 700 mg | CC=1N=C2N(C=CC=3[C@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)SCC)C1C | C20H23N3OS
